### PR TITLE
Small tidying work for coherently invertible maps

### PR DESCRIPTION
**Pull request by fredrik-bakke**
I'm just adding a little infrastructure about coherently invertible maps ref. our discussions yesterday. Don't worry, I'm not starting a huge refactoring project.

Relevant to #946 and #1021.

### CODE REVIEW

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 1]
```diff
@@ -24,32 +25,52 @@ open import foundation-core.sections
...
+```text
+               G ·r f
+             ~~~~~~~~~~
+  f ∘ g ∘ f             f.
+             ~~~~~~~~~~
+               f ·l H
+```
+
+We call such data a
+{{# "coherently invertible map" Agda=coherently-invertible-map}}. I.e., a
```
Comment (VojtechStep) [inline src/foundation-core/coherently-invertible-maps.lagda.md:46]:
```suggestion
{{#concept "coherently invertible map" Agda=coherently-invertible-map}}. I.e., a
```

**Comment by fredrik-bakke** [comment]
Okay, so this is like the n'th time the past few moths that we undo each others work with regards to avoiding cyclic dependencies, so I think we should sit down and agree on a common decision procedure.

**Comment by fredrik-bakke** [comment]
I think it is very useful to have a few more `core` files, and think we should try to have more results in them that don't add more dependencies. This allows us to have more conceptual proofs for core constructions such as, for instance, equivalences. For this to work, however, it is absolutely paramount that the core files try to avoid "junction" files as much as possible, like equivalences and embeddings. For instance, I think it should be possible to reason with squares of homotopies in all the way I would want to in `foundation-core.coherently-invertible-maps`. This hinges on the fact that `foundation-core.commuting-squares-of-identifications` does not import `foundation-core.equivalences`, but does have the common constructs like pasting and inversions.

**Comment by fredrik-bakke** [comment]
Maybe one heuristic to go for is that, we should be more inclined to rewrite short proofs to avoid extra dependencies, such as the constructions on commuting squares of identifications, and prioritize making it possible to make the more complicated proofs conceptual, such as showing that the inverse of a coherently invertible map is coherently invertible.

**Comment by EgbertRijke** [comment]
Damn... :(

What was the original problem that caused you to do this?

**Comment by fredrik-bakke** [comment]
I want to prove lemma 4.2.2 in the HoTT/UF book by pasting diagrams

**Comment by fredrik-bakke** [comment]
I don't think `foundation/(-core).commuting-squares-of-identifications` is that bad

**Comment by EgbertRijke** [comment]
I think making `foundation-core.coherently-invertible-maps` dependent on commuting squares is not great. `foundation-core.coherently-invertible-maps` should have _very minimal_ dependencies, because it is so fundamental in the hierarchy of our library. On top of that, it would have really been easy for you to do that _one_ pasting square by hand.

**Comment by fredrik-bakke** [comment]
It's three pastings, no? And I must disagree. I think commuting squares come lower in the hierarchy than coherently invertible maps. Indeed, the constructions for commuting diagrams generally tend to depend only on the most basic things, and making them available to the other basic files will allow us to write lots of proofs more conceptually.

**Comment by EgbertRijke** [comment]
In #1014 I literally worked towards minimizing the dependencies of `foundation-core.coherently-invertible-maps`. That eased a lot of the tension that generated cyclic dependencies. So I am not at all convinced that the approach that you're taking in this PR is the right one, or an acceptable one.

**Comment by fredrik-bakke** [comment]
My proposal will not add any more dependencies to `foundation-core.coherently-invertible-maps`. But it will allow us to write better proofs in this file.

**Comment by fredrik-bakke** [comment]
Essentially by making most of `commuting-squares-of-identifications` not depend on equivalences.

**Comment by fredrik-bakke** [comment]
Of course, I don't mean "doesn't change the import statements" when I say "doesn't add dependencies"

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 2]
```diff
@@ -59,118 +97,830 @@ module _
...
+      is-retraction-map-inv-is-invertible H ,
+      coh)
+```
+
+## Properties
+
+### Invertible maps are coherently invertible
+
+The construction follows Theorem 4.2.3 in _Homotopy Type Theory – Univalent
+Foundations of Mathematics_.
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:386]: The original formalization of this fact actually didn't really follow the HoTT book. It included several optimizations, and the one I formalized was the one from my book. Did you change anything about the formalization so that it is now the one from the HoTT book?

Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:386]: Ah, I'll have a look. And I'll change the reference.

File: src/foundation-core/homotopies.lagda.md [hunk 3]
```diff
@@ -247,6 +247,20 @@ module _
...
+identification `p : x ＝ y` in `A`, we have a
+[commuting square of identifications](foundation-core.commuting-squares-of-identifications.md)
+
+```text
+          ap f p
+     f x -------- f y
+      |            |
+  H x |            | H y
+      |            |
+     g x -------- g y.
```
Comment (EgbertRijke) [inline src/foundation-core/homotopies.lagda.md:260]: We have many different styles of diagrams in our library. I've been using ordinary arrows for all diagrams, including diagrams of identifications and diagrams of homotopies. In particular, my diagrams always have arrow heads and I try to avoid unicode symbols that don't have the standard width.

Previously it was questioned why we should have some uniformity in our diagrams, but I actually would like to bring this point to discussion because I would like to have some uniformity in our diagrams. In particular, I think the arrow heads are very useful information and omitting them because of symmetry reasons is hiding useful information from the reader.

I'm also less fond of `~~~` lines of arrows because they look distracting to me.

Comment (EgbertRijke) [reply src/foundation-core/homotopies.lagda.md:260]: Other than that, I like that you're putting in many new diagrams! Thank you for doing that!

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:386]: I should really get to reading your book soon 😶‍🌫️

Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:386]: There were many things I have thought hard about in order to do the more efficiently. This was one point where I made some optimizations. In some cases the HoTT book proofs are a lot longer than in my book or than in the library (the proof that equivalences are embeddings is another such example). So to simply state that we're following the HoTT book when we've actually been doing a lot of work to make things better feels like short selling our work.

Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:386]: I definitively see that. The proof that is there was based on the previous formalization. Then I compared to the HoTT book and thought they were the same. Sorry about that, and thanks for catching it

Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:386]: Of course, the HoTT book is still the correct reference to many facts (including this one), but still in the proof we make some different choices here and there.

**Comment by fredrik-bakke** [comment]
I have no clue how this PR got so large

**Comment by EgbertRijke** [comment]
> I have no clue how this PR got so large

It is kind of you to give me some cover for my own large PRs:)

**Comment by fredrik-bakke** [comment]
I asked like a month or two ago whether `coh-horizontal-concat-htpy` was true without funext. Turns out its just a case of naturality of homotopies, and now I actually needed it to be true without funext :)

**Comment by fredrik-bakke** [comment]
Alright, I'm flagging this one as ready for review. Apologies if I forgot to clean up something.

**Comment by fredrik-bakke** [comment]
(Currently doing import cleanup)

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 4]
```diff
@@ -7,49 +7,103 @@ module foundation-core.coherently-invertible-maps where
...
+homotopy (or retraction homotopy). For this reason we also give alternative
+constructions showing
+
+1. The identity map is coherently invertible.
+2. The composite of two coherently invertible maps is coherently invertible.
+3. The inverse of a coherently invertible map is coherently invertible.
+4. Every map homotopic to a coherently invertible map is coherently invertible.
+5. The 3-for-2 property of coherently invertible maps.
+
+That appropriately preserve the data of the underlying two-sided inverse.
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:84]:
```suggestion
Each of these constructions preserve the data of the underlying two-sided inverse.
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 5]
```diff
@@ -7,49 +7,103 @@ module foundation-core.coherently-invertible-maps where
...
 
 ## Definition
 
+### The predicate of being coherently invertible on maps
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:88]:
```suggestion
### The predicate of being a coherently invertible map
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 6]
```diff
@@ -59,118 +113,1279 @@ module _
   map-inv-is-coherently-invertible : B → A
   map-inv-is-coherently-invertible = pr1 H
 
-  is-retraction-is-coherently-invertible :
-    (f ∘ map-inv-is-coherently-invertible) ~ id
-  is-retraction-is-coherently-invertible = pr1 (pr2 H)
+  is-section-map-inv-is-coherently-invertible :
+    f ∘ map-inv-is-coherently-invertible ~ id
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:117]:
```suggestion
    is-section f map-inv-is-coherently-invertible
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 7]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  is-section-map-inv-is-coherently-invertible = pr1 (pr2 H)
 
-  is-section-is-coherently-invertible :
-    (map-inv-is-coherently-invertible ∘ f) ~ id
-  is-section-is-coherently-invertible = pr1 (pr2 (pr2 H))
+  is-retraction-map-inv-is-coherently-invertible :
+    map-inv-is-coherently-invertible ∘ f ~ id
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:121]:
```suggestion
    is-retraction f map-inv-is-coherently-invertible
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 8]
```diff
@@ -59,118 +113,1279 @@ module _
...
+    retraction map-coherently-invertible-map
+  retraction-map-coherently-invertible-map =
+    retraction-is-coherently-invertible
+      ( is-coherently-invertible-map-coherently-invertible-map)
+
+  is-invertible-map-coherently-invertible-map :
+    is-invertible map-coherently-invertible-map
+  is-invertible-map-coherently-invertible-map =
+    is-invertible-is-coherently-invertible
+      ( is-coherently-invertible-map-coherently-invertible-map)
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:215]: I would personally just drop `map-` in the middle of each of these names.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 9]
```diff
@@ -59,118 +113,1279 @@ module _
...
+
+  invertible-map-coherently-invertible-map : invertible-map A B
+  pr1 invertible-map-coherently-invertible-map =
+    map-coherently-invertible-map
+  pr2 invertible-map-coherently-invertible-map =
+    is-invertible-map-coherently-invertible-map
+```
+
+### The predicate of being transpose coherently invertible on maps
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:224]:
```suggestion
### The predicate of being a transpose coherently invertible map
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 10]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  retraction-map-transpose-coherently-invertible-map =
+    retraction-is-transpose-coherently-invertible
+      ( is-transpose-coherently-invertible-map-transpose-coherently-invertible-map)
+
+  is-invertible-map-transpose-coherently-invertible-map :
+    is-invertible map-transpose-coherently-invertible-map
+  is-invertible-map-transpose-coherently-invertible-map =
+    is-invertible-is-transpose-coherently-invertible
+      ( is-transpose-coherently-invertible-map-transpose-coherently-invertible-map)
+
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:360]: I would again just drop `map-` in the middle of each of these names

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 11]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  is-transpose-coherently-invertible-transpose-coherence-is-invertible coh =
+    ( map-inv-is-invertible H ,
+      is-section-map-inv-is-invertible H ,
+      is-retraction-map-inv-is-invertible H ,
+      coh)
 ```
 
 ## Properties
 
+### The inverse of a coherently invertible map is transpose coherently invertible
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:411]:
```suggestion
### The inverse of a coherently invertible map is transpose coherently invertible and vice versa
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 12]
```diff
@@ -59,118 +113,1279 @@ module _
...
+
+The inverse of a coherently invertible map is transpose coherently invertible.
+Of course, there is also a converse construction, and since these are defined by
+simply moving data around, they are strict inverses to one another.
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:415]:
```suggestion
The inverse of a coherently invertible map is transpose coherently invertible.
Conversely, the inverse of a transpose coherently invertible map is coherently invertible.
Since these are defined by
simply moving data around, they are strict inverses to one another.
```

This is better, since it states explicitly the converse with little extra effort.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 13]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  is-coherently-invertible-is-invertible =
+    ( map-inv-is-invertible H ,
+      is-section-map-inv-is-coherently-invertible-is-invertible ,
+      is-retraction-map-inv-is-coherently-invertible-is-invertible ,
+      coh-is-coherently-invertible-is-invertible)
+```
+
+This result is known as
+[Vogt's lemma](https://ncatlab.org/nlab/show/homotopy+equivalence#vogts_lemma)
+in point-set topology.
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:526]: If this is about the previous lemma, could you move this reference up so that is shows above the code along with the other informal sentence?

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 14]
```diff
@@ -59,118 +113,1279 @@ module _
...
+[injective](foundation-core.injective-maps.md) (`is-injective-retraction`). We
+repeat the proof to avoid cyclic dependencies.
 
 ```agda
 module _
   {l1 l2 : Level} {A : UU l1} {B : UU l2} {f : A → B}
+  (H : is-coherently-invertible f) {x y : A}
   where
 
+  map-inv-ap-is-coherently-invertible : f x ＝ f y → x ＝ y
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:558]: Wouldn't it be better to call this `is-injective-is-coherently-invertible`? A user who is looking for the fact that coherently invertible maps are injective would not necessarily look for it under this name.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 15]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  is-transpose-coherently-invertible-is-invertible :
+    is-transpose-coherently-invertible f
+  is-transpose-coherently-invertible-is-invertible =
+    is-transpose-coherently-invertible-map-inv-is-coherently-invertible
+      ( is-coherently-invertible-is-invertible
+        ( is-invertible-map-inv-is-invertible H))
 ```
 
-#### The proof that invertible maps are coherently invertible
+### Coherently invertible maps are embeddings
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:543]: I think it is better to split this up into two sections

`### Coherently invertible maps are injective`

`### Coherently invertible maps are embeddings`

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 16]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  pr1 (pr2 is-invertible-ap-is-coherently-invertible) =
+    is-section-map-inv-ap-is-coherently-invertible
+  pr2 (pr2 is-invertible-ap-is-coherently-invertible) =
+    is-retraction-map-inv-ap-is-coherently-invertible
+
+  is-coherently-invertible-ap-is-coherently-invertible :
+    is-coherently-invertible (ap f {x} {y})
+  is-coherently-invertible-ap-is-coherently-invertible =
+    is-coherently-invertible-is-invertible
+      ( is-invertible-ap-is-coherently-invertible)
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:617]: This proof involves a coherent replacement of the previous proof. Would it be beneficial in any way to give a direct proof of the coherence?

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 17]
```diff
@@ -59,118 +113,1279 @@ module _
...
 ```
 
+### Coherently invertible maps are coherently invertible in both senses
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:620]: This is unclear. Do you simply mean to say that coherently invertible maps are transpose coherently invertible? In that case it would be clearer to say so:

```suggestion
### Coherently invertible maps are transpose coherently invertible
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 18]
```diff
@@ -59,118 +113,1279 @@ module _
...
+  Rgfg |  nat-htpy R ·r (R ·r g)  | Rg
+       ∨                          ∨
+      gfg ----------------------> g.
+                    Rg
+```
+
+We can paste the homotopy
+
+```text
+  g(inv-coh-htpy-id S) ∙ gHg : Sgfg ~ gfSg ~ gfRg
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:640]:
```suggestion
  g (inv-coh-htpy-id S) ∙ gHg : Sgfg ~ gfSg ~ gfRg
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 19]
```diff
@@ -59,118 +113,1279 @@ module _
...
+    is-coherently-invertible-is-invertible
+      ( is-invertible-ap-is-coherently-invertible)
 ```
 
+### Coherently invertible maps are coherently invertible in both senses
+
+The proof follows Lemma 4.2.2 in _Homotopy Type Theory – Univalent Foundations
+of Mathematics_.
+
+**Proof.** By naturality we have
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:625]:
```suggestion
**Proof.** By naturality of homotopies we have
```

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 20]
```diff
@@ -59,118 +113,1279 @@ module _
...
+        ( assoc-htpy
+          ( inv-htpy ((g ∘ f ∘ g) ·l S))
+          ( R ·r (g ∘ f ∘ g))
+          ( g ·l S))) ∙h
+      ( ap-concat-htpy'
+        ( g ·l S)
+        ( ( vertical-inv-coherence-square-homotopies
+            ( R ·r (g ∘ f ∘ g)) ((g ∘ f ∘ g) ·l S) (R ·r g) (R ·r g)
+            ( naturality-square-transposition-coherence-is-coherently-invertible)) ∙h
+          ( right-inv-htpy (R ·r g))))
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:739]: We have the tools to do this sort of things much more efficiently now. Let me fire up vscode and find out exactly what to use. But in principle, if you find lots of squares and reassociations and whiskerings in your construction, then that's a sign that better infrastructure should be available because you don't have to do that by hand anymore.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 21]
```diff
@@ -59,118 +113,1279 @@ module _
...
+
+Now, by pasting the first square to the second along the common edge `Rgfg`, we
+obtain
+
+```text
+            gfgS           gfgS
+      gfg <------- gfgfg -------> gfg
+       |             |             |
+    Rg |            Rgfg           | Rg
+       ∨             ∨             ∨
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:675]:
```suggestion
       |             |             |
    Rg |             | Rgfg        | Rg
       ∨             ∨             ∨
```

I'm not really fond of description style labeling of arrows in ascii diagrams, unless there is really no space. For example, you have an arrow head without a bit of an arrow line which doesn't look so good. In this diagram there clearly is the space for a conventional label, so it is better to stick to what is conventional.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 22]
```diff
@@ -59,118 +113,1279 @@ module _
...
+      ( right-transpose-htpy-concat (S ·r f') H ((f ∘ g) ·l H ∙h S ·r f)
+        ( ( ap-concat-htpy
+            ( S ·r f')
+            ( inv-htpy (left-unit-law-left-whisker-comp H))) ∙h
+          ( nat-htpy S ·r H)))) ∙h
+    ( ( ap-concat-htpy
+        ( H ·r (g ∘ f'))
+        ( assoc-htpy ((f ∘ g) ·l H) (S ·r f) (inv-htpy H))) ∙h
+      ( inv-htpy
+        ( assoc-htpy (H ·r (g ∘ f')) ((f ∘ g) ·l H) ((S ·r f) ∙h inv-htpy H))))
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:896]: This looks suspect to me as well. A more direct proof should be available with the new infrastructure for whiskering and squares.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 23]
```diff
@@ -59,118 +113,1279 @@ module _
...
+      ( inv-htpy (assoc-htpy (H ·r (g ∘ f)) (f ·l R) (inv-htpy H)))) ∙h
+    ( left-whisker-concat-htpy
+      ( (f' ∘ g) ·l H)
+      ( inv-htpy
+        ( right-transpose-htpy-concat (f' ·l R) H ((H ·r (g ∘ f) ∙h f ·l R))
+          ( inv-htpy (nat-htpy H ·r R))))) ∙h
+    ( ap-concat-htpy'
+      ( f' ·l R)
+      ( inv-preserves-comp-left-whisker-comp f' g H)) ∙h
+    ( inv-htpy (distributive-left-whisker-comp-concat f' (g ·l H) R))
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:917]: Same here.

**Review by EgbertRijke — COMMENTED** [review]
I reviewed one long file this morning. That file looked very good!

46 to go 🥲

**Comment by EgbertRijke** [comment]
BTW I really like the work you have done in this pull request, and I think you are right about it that the commuting squares of identifications and of homotopies can be split up in a part that uses equivalences and a part that doesn't use equivalences. It seems to work well, and given the amount of theory that is being developed in coherently invertible maps it seems to be a really useful change. So thank you for doing that.

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 24]
```diff
@@ -51,3 +53,1631 @@ module _
...
+      ( top x)
+      ( left x)
+      ( right x)
+      ( bottom x)
+      ( s x)
+      ( H x)
+```
+
+We record that this construction is an equivalence in
+[`foundation.commuting-squares-of-homotopies`](foundation.commuting-squares-of-homotopies.md).
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:360]: Probably state this sentence before the code block

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 25]
```diff
@@ -51,3 +53,1631 @@ module _
...
+
+```text
+           top                             top'
+       f -------> g                    f -------> g
+       |          |                    |          |
+  left |          | right    ≃    left |          | right
+       ∨          ∨                    ∨          ∨
+       h -------> i                    h -------> i.
+          bottom                          bottom
+```
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:325]:
```suggestion
with a homotopy `top ~ top'`. Then we get map

```text
           top                             top'
       f -------> g                    f -------> g
       |          |                    |          |
  left |          | right    →    left |          | right
       ∨          ∨                    ∨          ∨
       h -------> i                    h -------> i.
          bottom                          bottom
```
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 26]
```diff
@@ -51,3 +53,1631 @@ module _
...
+
+```text
+           top                              top
+       f -------> g                     f -------> g
+       |          |                     |          |
+  left |          | right    ≃    left' |          | right
+       ∨          ∨                     ∨          ∨
+       h -------> i                     h -------> i.
+          bottom                           bottom
+```
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:386]:
```suggestion
with a homotopy `left ~ left'`. Then we get maps back and forth

```text
           top                              top
       f -------> g                     f -------> g
       |          |                     |          |
  left |          | right    ↔    left' |          | right
       ∨          ∨                     ∨          ∨
       h -------> i                     h -------> i.
          bottom                           bottom
```
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 27]
```diff
@@ -51,3 +53,1631 @@ module _
...
+
+```text
+           top                             top
+       f -------> g                    f -------> g
+       |          |                    |          |
+  left |          | right    ≃    left |          | right'
+       ∨          ∨                    ∨          ∨
+       h -------> i                    h -------> i.
+          bottom                          bottom
+```
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:447]:
```suggestion
with a homotopy `right ~ right'`. Then we get maps back and forth

```text
           top                             top
       f -------> g                    f -------> g
       |          |                    |          |
  left |          | right    ↔    left |          | right'
       ∨          ∨                    ∨          ∨
       h -------> i                    h -------> i.
          bottom                          bottom
```
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 28]
```diff
@@ -51,3 +53,1631 @@ module _
...
+
+```text
+           top                             top
+       f -------> g                    f -------> g
+       |          |                    |          |
+  left |          | right    ≃    left |          | right
+       ∨          ∨                    ∨          ∨
+       h -------> i                    h -------> i.
+          bottom                          bottom'
+```
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:509]:
```suggestion
with a homotopy `bottom ~ bottom'`. Then we get maps back and forth

```text
           top                             top
       f -------> g                    f -------> g
       |          |                    |          |
  left |          | right    ↔    left |          | right
       ∨          ∨                    ∨          ∨
       h -------> i                    h -------> i.
          bottom                          bottom'
```
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 29]
```diff
@@ -51,3 +53,1631 @@ module _
...
+      ( right x)
+      ( bottom x)
+      ( s x)
+      ( H x)
+```
+
+We record that this construction is an equivalence in
+[`foundation.commuting-squares-of-homotopies`](foundation.commuting-squares-of-homotopies.md).
+
+### Whiskering and splicing coherences of commuting squares of homotopies
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:546]:
```suggestion
### Whiskering and splicing coherences of commuting squares of homotopies with respect to concatenation of homotopies
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 30]
```diff
@@ -51,3 +53,1631 @@ module _
...
+     (left ∙h bottom ~ top ∙h right) ≃ (left ∙h bottom ~ (top ∙h H⁻¹) ∙h (H ∙h right)).
+   ```
+
+These operations are useful in proofs involving path algebra, because taking
+`equiv-right-whisker-concat-coherence-square-identicications` as an example, it
+provides us with two maps: the forward direction states
+`(H ∙h r ~ K ∙h s) → (H ∙h (r ∙h t)) ~ K ∙h (s ∙h t))`, which allows one to
+append an homotopy without needing to reassociate on the right, and the
+backwards direction conversely allows one to cancel out a homotopy in
+parentheses.
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:655]:
```suggestion
These operations are useful in proofs involving homotopy algebra, because taking
`right-whisker-concat-coherence-square-homotopies` as an example, it
provides us with two maps: the forward direction states
`(H ∙h r ~ K ∙h s) → (H ∙h (r ∙h t)) ~ K ∙h (s ∙h t))`, which allows one to
append a homotopy without needing to reassociate on the right, and the
backwards direction conversely allows one to cancel out a homotopy in
parentheses.
```

This text has been copied over from the analogous file about squares of identifications, but not all adjustments to the setting of homotopies are made.

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 31]
```diff
@@ -51,3 +53,1631 @@ module _
...
+           top                                H ∙h top
+       f -------> g                         u -------> g
+       |          |                         |          |
+  left |          | right    ≃    H ∙h left |          | right
+       ∨          ∨                         ∨          ∨
+       h -------> i                         h -------> i
+          bottom                               bottom
+```
+
+of coherences of commuting squares of homotopies.
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:671]:
```suggestion
For any homotopy `H : u ~ f` we obtain maps back and forth

```text
           top                                H ∙h top
       f -------> g                         u -------> g
       |          |                         |          |
  left |          | right    ↔    H ∙h left |          | right
       ∨          ∨                         ∨          ∨
       h -------> i                         h -------> i
          bottom                               bottom
```

We show in ... that these maps are equivalences.

of coherences of commuting squares of homotopies.
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 32]
```diff
@@ -51,3 +53,1631 @@ module _
...
+           top                                 top
+       f -------> g                     f ------------> g
+       |          |                     |               |
+  left |          | right    ≃     left |               | right ∙h H
+       ∨          ∨                     ∨               ∨
+       h -------> i                     h ------------> i
+          bottom                           bottom ∙h H
+```
+
+of coherences of commuting squares of homotopies.
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:723]:
````suggestion
For any homotopy `H : i ~ u` we obtain maps back and forth

```text
           top                                 top
       f -------> g                     f ------------> g
       |          |                     |               |
  left |          | right    ↔     left |               | right ∙h H
       ∨          ∨                     ∨               ∨
       h -------> i                     h ------------> i
          bottom                           bottom ∙h H
```

of coherences of commuting squares of homotopies.
````

We show in ... that these maps are equivalences.

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 33]
```diff
@@ -51,3 +53,1631 @@ module _
...
+           top                                    top
+       f -------> g                         f -----------> g
+       |          |                         |              |
+  left |          | right    ≃    left ∙h H |              | right
+       ∨          ∨                         ∨              ∨
+       h -------> i                         u -----------> i
+          bottom                               K ∙h bottom
+```
+
+of coherences of commuting squares of homotopies.
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:803]:
```suggestion
For any inverse pair of homotopies `H : g ~ u` and `K : u ~ g` equipped with
`α : inv-htpy H ~ K` we obtain maps back and forth

```text
           top                                    top
       f -------> g                         f -----------> g
       |          |                         |              |
  left |          | right    ↔    left ∙h H |              | right
       ∨          ∨                         ∨              ∨
       h -------> i                         u -----------> i
          bottom                               K ∙h bottom
```

of coherences of commuting squares of homotopies. We show in ... that these maps are equivalences.
```

File: src/foundation-core/commuting-squares-of-homotopies.lagda.md [hunk 34]
```diff
@@ -51,3 +53,1631 @@ module _
...
+           top                             top ∙h H
+       f -------> g                     f --------> u
+       |          |                     |           |
+  left |          | right    ≃     left |           | K ∙h right
+       ∨          ∨                     ∨           ∨
+       h -------> i                     h --------> i
+          bottom                           bottom
+```
+
+of coherences of commuting squares of homotopies.
```
Comment (EgbertRijke) [inline src/foundation-core/commuting-squares-of-homotopies.lagda.md:857]:
````suggestion
For any inverse pair of homotopies `H : g ~ u` and `K : u ~ g` equipped with
`α : inv-htpy H ~ K` we obtain maps back and forth

```text
           top                             top ∙h H
       f -------> g                     f --------> u
       |          |                     |           |
  left |          | right    ↔     left |           | K ∙h right
       ∨          ∨                     ∨           ∨
       h -------> i                     h --------> i
          bottom                           bottom
```

of coherences of commuting squares of homotopies. We show in ... that these maps are equivalences.
````

File: src/foundation-core/equivalences.lagda.md [hunk 35]
```diff
@@ -181,18 +180,16 @@ module _
...
   is-retraction-map-section-is-equiv H =
-    ( ( ( inv-htpy
-          ( ( is-retraction-map-retraction-is-equiv H) ·r
-            ( map-section-is-equiv H))) ∙h
-        ( map-retraction-is-equiv H ·l is-section-map-section-is-equiv H)) ·r
-      ( f)) ∙h
+    ( ( inv-htpy ( is-retraction-map-retraction-is-equiv H)) ·r
+      ( map-section-is-equiv H ∘ f) ∙h
+      ( map-retraction-is-equiv H ·l is-section-map-section-is-equiv H ·r f)) ∙h
     ( is-retraction-map-retraction-is-equiv H)
```
Comment (EgbertRijke) [inline src/foundation-core/equivalences.lagda.md:193]: The new formatting is too flat, and hides the way _different operations_ are combined. I find this a lot harder to maintain, if down the line I need to change something, so I think it is valuable to preserve the tree structure of this definition:

```suggestion
    ( ( inv-htpy
        ( ( is-retraction-map-retraction-is-equiv H) ·r
          ( map-section-is-equiv H ∘ f))) ∙h
      ( map-retraction-is-equiv H ·l is-section-map-section-is-equiv H ·r f)) ∙h
    ( is-retraction-map-retraction-is-equiv H)
```

File: src/foundation-core/equivalences.lagda.md [hunk 36]
```diff
@@ -662,38 +676,10 @@ module _
...
-                ( ( ap-binary
-                    ( λ u v → u ∙ v)
-                    ( inv (coherence-map-inv-is-equiv H x))
-                    ( inv (ap-id p))) ∙
-                  ( nat-htpy (is-section-map-inv-is-equiv H) p))))))
-        ( λ where refl → left-inv (is-retraction-map-inv-is-equiv H x))
+    is-emb-is-equiv H x y =
+      is-equiv-is-invertible'
+        ( is-invertible-ap-is-coherently-invertible
+          ( is-coherently-invertible-is-equiv H))
```
Comment (EgbertRijke) [inline src/foundation-core/equivalences.lagda.md:682]: Awesome!

File: src/foundation-core/homotopies.lagda.md [hunk 37]
```diff
@@ -247,6 +247,20 @@ module _
...
+
+```text
+          ap f p
+     f x -------> f y
+      |            |
+  H x |            | H y
+      ∨            ∨
+     g x -------> g y.
+          ap g p
+```
```
Comment (EgbertRijke) [inline src/foundation-core/homotopies.lagda.md:262]: Excellent! It is definitely benificial to display this square.

File: src/foundation/sections.lagda.md [hunk 38]
```diff
@@ -192,16 +193,45 @@ is-injective-map-section-family b = ap pr1
 
 ```agda
```
Comment (EgbertRijke) [inline src/foundation/sections.lagda.md:194]: We have a file `transposing-identifications-along-equivalences`. So it would make sense to have two more files `transposing-identifications-along-sections` and `transposing-identifications-along-retractions`.

File: src/foundation/sections.lagda.md [hunk 39]
```diff
@@ -192,16 +193,45 @@ is-injective-map-section-family b = ap pr1
...
+
+  is-retraction-is-section-transpose-eq :
+    is-section-transpose-eq ∘ transpose-eq-is-section ~ id
+  is-retraction-is-section-transpose-eq H = refl
+
+  abstract
+    is-section-is-section-transpose-eq :
+      transpose-eq-is-section ∘ is-section-transpose-eq ~ id
+    is-section-is-section-transpose-eq H =
+      eq-multivariable-htpy-implicit 2 (λ x y → eq-htpy (λ where refl → refl))
```
Comment (EgbertRijke) [inline src/foundation/sections.lagda.md:223]: I find this definition quite uncomprehensible. Why not factor out the homotopy that is defined in the lambda-where clause, so that we can see its type?

Comment (EgbertRijke) [reply src/foundation/sections.lagda.md:223]: I also wonder whether importing multivariable homotopies here could be a source of cyclic module dependencies later on.

File: src/foundation/invertible-maps.lagda.md [hunk 40]
```diff
@@ -375,6 +377,20 @@ module _
     equiv-free-loop-equivalence-invertible-equivalence
 ```
 
+### Invertible maps are embeddings
```
Comment (EgbertRijke) [inline src/foundation/invertible-maps.lagda.md:380]: This claim is not proven in the code below!

```suggestion
### The action on identifications of invertible maps is invertible
```

File: src/foundation/homotopy-algebra.lagda.md [hunk 41]
```diff
@@ -51,27 +50,43 @@ module _
...
+For the general case, we must construct a coherence of the square
+
+```text
+          gF
+    gf -------> gf'
+     |          |
+  Gf |          | Gf'
+     ∨          ∨
+    g'f ----> g'f'
+         g'F
```
Comment (EgbertRijke) [inline src/foundation/homotopy-algebra.lagda.md:77]: There is no shortage of space in this diagram, so it would be easy to add in the whiskering operations.

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:617]: I've thought a little about it, and without having inspected the construction in much detail, I can't see why it should be beneficial to give a more direct proof. As we spoke about yesterday, though, perhaps the construction is more direct for transpose coherently invertible maps?

File: src/foundation/sections.lagda.md (hunk 38 above)
Comment (fredrik-bakke) [reply src/foundation/sections.lagda.md:194]: This seems like more than a trivial edit, so I'm inclined to leave it for future work. If you want, I can revert the additions to `sections` and `retractions` instead.

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:622]: I had a second look, and couldn't find an immediate way to make the proof simpler using transpose coherently invertible maps. That's not to say it's not possible, I just didn't see it immediately.

Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:622]: Do you want to add a remark that we want a proof that avoids replacement?

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:743]: As I said to you in person, I'm actually very happy with how these proofs turned out. I did try to apply the infrastructure for commuting squares, but ultimately decided to remove it because I found my proofs looked better without them.

File: src/foundation-core/coherently-invertible-maps.lagda.md (hunk 16 above)
Comment (EgbertRijke) [reply src/foundation-core/coherently-invertible-maps.lagda.md:622]: No it's ok:)
